US04963670
To a solution of 2-amino-1-phenylethanol (5.104 g, 37.21 mmole) in 25 mL dichloromethane was added bis(trimethylsilyl)acetamide (6.122 g, 31.10 mmole). The reaction mixture was stirred at room temperature for 3 hours. The mixture was diluted with dichloromethane (150 mL) and washed with water (2×100 mL). The organic phase was dried over magnesium sulfate and concentrated in vacuo. The 2-phenyl-2-trimethylsiloxyethylamine thus obtained was directly used for the next step.

reactant | 2-amino-1-phenylethanol | 37.21 mmole, 5.104 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | bis(trimethylsilyl)acetamide | 31.10 mmole, 6.122 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-phenyl-2-trimethylsiloxyethylamine | C1(=CC=CC=C1)C(CN)O[Si](C)(C)C | C11H19NOSi
